US05972988
805 mg (5 mmol) of 4-methoxy-2-methyl-1H-indole is reacted with 200 mg (5 mmol) of 60% NaH/mineral oil (washing with hexane before adding DMF) in 15 mL of DMF and after stirring for 0.5 hour, 1.0 g (5 mmol) of 3-(chloromethyl)biphenyl is added. The mixture is stirred at room temperature for 18 hours, diluted with water and extracted with ethyl acetate. The ethyl acetate solution is washed with brine, dried (MgSO4) and after concentrating at reduced pressure, the residue is chromatographed on silica gel eluting with 20% EtOAc/hexane to give 1.25 g (76% yield) of 1-((1,1'-biphenyl)-3-ylmethyl)-2-methyl-4-methoxy-1H-indole mp, 127°-131° C.

reactant | 4-methoxy-2-methyl-1H-indole | 5 mmol, 805 mg | COC1=C2C=C(NC2=CC=C1)C | C10H11NO
reactant | NaH | 5 mmol, 200 mg | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | 3-(chloromethyl)biphenyl | 5 mmol, 1.0 g | ClCC=1C=C(C=CC1)C1=CC=CC=C1 | C13H11Cl
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-((1,1'-biphenyl)-3-ylmethyl)-2-methyl-4-methoxy-1H-indole | 1.25 g, 76% yield | C1(=CC(=CC=C1)CN1C(=CC2=C(C=CC=C12)OC)C)C1=CC=CC=C1 | C23H21NO
